US04656290
19 g (0.1 mole) of p-toluene sulfonyl chloride are dissolved in 100 ml acetic acid whereupon 1.5 g (0.01 mole) of sodium iodide are added and the reaction mixture is stirred until the iodide is completely dissolved (5 minutes). The reaction mixture becomes dark brown. A 30% sodium bisulfite solution is slowly added dropwise at a rate that on addition the iodine color of the mixture should just disappear. During the dropwise addition the temperature of the mixture is raised to 60° C. (within about 30 minutes). The reaction is continued at this temperature until the color of iodine does not appear any more. At the end of the reaction the reaction mixture is diluted with 50 ml of water and the pH is adjusted to the value of 4 by adding a 20% sodium hydroxide solution. The reaction mixture is extracted three times with 80 ml of n-hexane each, the hexane phases are combined, dried over anhydrous sodium sulfate and evaporated under atmospheric pressure. From the distillation residue the traces of solvent are removed at 70° C. in vacuo and the product is crystallized at 20° C. Thus 11.9 g of p-tolyl-disulfide are obtained, yield 97%. Mp.: 43°-45° C.

reactant | p-toluene sulfonyl chloride | 0.1 mole, 19 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium iodide | 0.01 mole, 1.5 g | [I-].[Na+]
reactant | iodide | [I-]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | iodine | II | I2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | p-tolyl-disulfide | 11.9 g, yield 97% | C1(=CC=C(C=C1)SSC1=CC=C(C=C1)C)C | C14H14S2
